US07220862B2
(R)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(1H-indazol-5-ylmethyl)-2-oxo-ethyl]-amide ( )
A solution of (R)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-ylmethyl]-ethyl}-amide (568 mg, 0.73 mmol) and cesium fluoride (1.11 g, 7.31 mmol) was heated at 80° C. in acetonitrile (50 mL) for 4.5 h. The reaction mixture was concentrated and the residue was subjected to flash column chromatography (methylene chloride/methanol/triethylamine, 94:5:1) to give 280 mg (63% yield) of the title compound as a white solid with 98.2% ee as determined by HPLC analysis using a Chirocel OD column with 20% B (A=ethanol, B=0.05% diethylamine in hexanes) as eluent (Retention times: 9.51 min for title compound and 15.9 min for S-enantiomer). 1H-NMR (CD3OD, 500 MHz) δ 8.04 (s, 0.75H), 8.03 (s, 0.25H), 7.67 (s, 0.75H), 7.65 (s, 0.25H), 7.56 (d, J=8.5 Hz, 0.75H), 7.51 (d, J=8.5 Hz, 0.25H), 7.41 (d, J=8.5 Hz, 0.75H), 7.31 (d, J=8.5 Hz, 0.25H), 7.19–7.12 (m, 2H), 6.97–6.94 (m, 1H), 6.80 (d, J=7.9 Hz, 1H), 5.08–5.05 (m, 1H), 4.60–4.53 (m, 1H), 4.48–4.40 (m, 1H), 4.37 (s, 1.5H), 4.26 (s, 0.5H), 4.24–4.14 (m, 2H), 4.06–3.97 (m, 1H), 3.15 (d, J=7.9 Hz, 1.5H), 3.12–3.05 (m, 0.5H), 2.94–2.86 (m, 3H), 2.57–2.51 (m, 1.5H), 2.47–2.42 (m, 1H), 2.37–2.33 (m, 0.75H), 2.03–2.02 (m, 1.5H), 1.87–1.75 (m, 3.75H), 1.73–1.68 (m, 2H), 1.67–1.54 (m, 3H), 1.53–1.44 (m, 4H), 1.43–1.34 (m, 2H), 1.30–1.26 (m, 1H), 0.83–0.77 (m, 0.75H), −0.16 to −0.24 (m, 0.75H). Mass spec.: 613 (MH)+.

reactant | (R)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-ylmethyl]-ethyl}-amide | 0.73 mmol, 568 mg | N1(CCCCC1)C1CCN(CC1)C([C@@H](CC=1C=C2C=NN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C39H56N8O5SSi
reactant | cesium fluoride | 7.31 mmol, 1.11 g | [F-].[Cs+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (R)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(1H-indazol-5-ylmethyl)-2-oxo-ethyl]-amide | 280 mg, 63% yield | N1(CCCCC1)C1CCN(CC1)C([C@@H](CC=1C=C2C=NNC2=CC1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C34H44N8O3
